US05536722
2,4-Dichloro-6-(6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinolin-2-yl)-1,3,5-triazine
To a 0° C. stirred slurry of cyanuric chloride (8.03 g, 43.5 mM) in saturated sodium hydrogen carbonate solution (300 mL) was added 6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinoline hydrochloride (10 g, 43.5 mM) in water (50 mL) at a rate that maintained the internal temperature below 8° C. After 10 min the product was extracted with methylene chloride, filtered through a cotton plug and concentrated to a solid. Filtration of a concentrated methylene chloride solution of the crude product through a 2×2 inch silica gel pad eluting with 50% ethyl acetate/hexanes provided pure product, 12.3 g, (83%).

reactant | cyanuric chloride | 43.5 mM, 8.03 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinoline hydrochloride | 43.5 mM, 10 g | Cl.COC=1C=C2CCNCC2=CC1OC
solvent | sodium hydrogen carbonate | 300 mL | C(O)([O-])=O.[Na+]
solvent | water | 50 mL | O | H2O
product | 2,4-Dichloro-6-(6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinolin-2-yl)-1,3,5-triazine | ClC1=NC(=NC(=N1)Cl)N1CC2=CC(=C(C=C2CC1)OC)OC | C14H14Cl2N4O2
